US08278307B2
N-(3-(1H-imidazol-1-yl)-5-(trifluoromethyl)phenyl)-3-iodo-methylbenzamide:
To 3-iodo-4-methylbenzoic acid (3.07 g, 0.0117 mol) was added thionyl chloride (10 mL) and refluxed for 2 h. The excess thionyl chloride was carefully removed and the resulting acid chloride was dried in vacuo for 2 h. The residue was then dissolved in DCM (anhydrous, 25 mL) and cooled on ice. To the cooled solution was added 3-1H-imidazol-1-yl-5-(trifluoromethyl)aniline (3.46 g, 0.0152 mol) in DCM followed by the dropwise addition of diisopropylethylamine (8.2 mL, 0.047 mol). This was stirred at ambient temperature for 21 h. The white solid that separated was filtered and washed with water and dried to provide 4.65 g of product. Additional product could be obtained from the filtrate following concentration and purification by silica gel flash chromatography in EtOAc/hexanes.

reactant | 3-iodo-4-methylbenzoic acid | 0.0117 mol, 3.07 g | IC=1C=C(C(=O)O)C=CC1C | C8H7IO2
reactant | thionyl chloride | 10 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 3-1H-imidazol-1-yl-5-(trifluoromethyl)aniline | 0.0152 mol, 3.46 g | N1(C=NC=C1)C=1C=C(N)C=C(C1)C(F)(F)F | C10H8F3N3
reactant | diisopropylethylamine | 0.047 mol, 8.2 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-(3-(1H-imidazol-1-yl)-5-(trifluoromethyl)phenyl)-3-iodo-methylbenzamide | 4.65 g | N1(C=NC=C1)C=1C=C(C=C(C1)C(F)(F)F)NC(C1=C(C(=CC=C1)I)C)=O | C18H13F3IN3O
